Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lisinopril / alcohol
 
Attending: ___
 
Chief Complaint:
atrial fibrillation with RVR
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ presents with tachycardia. Patient with recent admission for 
atrial fibrillation with RVR at that time underwent 
cardioversion and was started on low-dose 
metoprolol. Now with returned for tachycardia to the 150s. 
Patient was reportedly feeling weak at home and noted to be 
orthostatic. She was additionally noted to have highly variable 
heart rate with irregular heart rhythm. At time of evaluation 
she denies any acute complaints however is noted to be 
tachycardic from the 120s to 150s. Patient states she has been 
taking her metoprolol as prescribed.
 
In the ED, initial vitals were 97.8 74 128/50 16 97% ra. Labs 
significant for unremarkable CBC and CHem7 with the exception of 
BUN 21, glucose 127, phos 2.0, Lactate: 1.9. UA unremarkable. 
Urine and blood cultures sent. CXR showed cardiomegaly and small 
bilateral effusions. No superimposed acute cardiopulmonary 
process. Patient was evaluated by cardiology in the ED and 
admitted for AF with RVR, for rate control with beta blocker 
uptitration. VS prior to transfer include 98.8 113 122/78 20 98% 
RA.

On the floor, patient is comfortable without any recent chest 
pain, palpitations, shortness of breath, lightheadedness with 
walking to the bathroom or peripheral edema. She states she 
cannot feel that her heart rate is fast.
 
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. She denies recent fevers, chills or 
rigors. She denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
 
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: + Hypertension  
2. CARDIAC HISTORY: afib
3. OTHER PAST MEDICAL HISTORY:                             
CATARACT                                                        
DEGENERATIVE JOINT DISEASE                                       

OSTEOPOROSIS                                                    
PELVIC FRACTURE                                                 
TINNITUS                                                        
RETINAL VASCULAR OCCLUSION                                      
H/O COLLES' FRACTURE                                            
H/O HEMATURIA S/P CYSTOSCOPY                                 
H/O PROLAPSE VAGINAL WALL W/O UTERINE PROLAPSE 
H/O SYNCOPE   

 
Social History:
___
Family History:
non-contributory to this admission
 
Physical Exam:
On Admission:
VS: 98.1 123/71 120s-140s 16 93%RA wt 38kg (discharged at 
36.4kg) 
GENERAL: awake and alert, in NAD, pleasant
HEENT: AT/NC, + cataracts, anicteric sclera, good dentition  
NECK: JVP not elevated    
CARDIAC: irreg irreg, no Murmurs appreciated  
LUNG: bibasilar crackles  
ABDOMEN: soft, non-tender, non-distended   
EXT: warm and well-perfused, no edema 
NEURO: alert, neuro exam grossly non-focal 

On Discharge:
Vitals: 97.5  104/76(80-123/46-73)  97(68-136)  16  92%RA 
weight: 38.1kg from 38kg at admission (last discharge at 36.4kg)
GENERAL: awake and alert, in NAD  
HEENT: AT/NC, HOH, anicteric sclera, good dentition  
NECK: JVP of 6  
CARDIAC: RRR, no Murmurs appreciated  
LUNG: bibasilar crackles, no wheezing  
ABDOMEN: soft, non-tender, non-distended  
EXT: warm and well-perfused, no edema.  
NEURO: alert, neuro exam grossly non-focal  
 
Pertinent Results:
On Admission:
___ 01:49PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:49PM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-300 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-TR
___ 01:49PM URINE  RBC-30* WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-6
___ 01:49PM URINE  MUCOUS-FEW
___ 01:33PM   LACTATE-1.9
___ 01:15PM   GLUCOSE-127* UREA N-21* CREAT-0.6 SODIUM-138 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-26 ANION GAP-13
___ 01:15PM   CALCIUM-8.6 PHOSPHATE-2.0*# MAGNESIUM-2.2
___ 01:15PM   WBC-5.9 RBC-4.02* HGB-11.5* HCT-36.6 MCV-91 
MCH-28.7 MCHC-31.5 RDW-15.7*
___ 01:15PM   NEUTS-64.9 ___ MONOS-10.6 EOS-1.2 
BASOS-1.4
___ 01:15PM   PLT COUNT-324

Other Pertinent Labs:
___ 06:10AM BLOOD ___ PTT-36.7* ___
___ 06:10AM BLOOD ALT-37 AST-20 AlkPhos-72 TotBili-0.4

On Dishcarge:
___ 06:20AM BLOOD WBC-3.9* RBC-3.64* Hgb-10.7* Hct-34.0* 
MCV-93 MCH-29.5 MCHC-31.6 RDW-15.6* Plt ___
___ 06:20AM BLOOD Glucose-79 UreaN-20 Creat-0.6 Na-136 
K-4.7 Cl-103 HCO3-28 AnGap-10
___ 06:20AM BLOOD Mg-2.1

Imaging:
CXR ___:
Cardiomegaly and small bilateral effusions.  No superimposed 
acute cardiopulmonary process. 

EKG:  ___:
afib with RVR, rate 127, normal axis, nonspecific ST changes 
laterally and Q waves w/TWI in III, aVF similar to last 
admission

 
Brief Hospital Course:
___ with history of hypertension, presented with recurrent 
atrial fibrillation with RVR s/p cardioversion on ___.
 
# Atrial fibrillation with rapid ventricular response: CHADS2=3 
(HTN, CHF, Age). Underwent workup for etiology of new atrial 
fibrillation at last admission. She returned with rapid atrial 
fibrillation but no signs of systolic heart failure 
exacerbation. Rate control strategy was favored given paroxysmal 
nature of her atrial fibrillation despite being euvolemic as 
volume overload was initially felt to be a contributing factor. 
She was rate controlled on increased dose of metoprolol and her 
symptoms of fatigue resolved. She also continued Rivaroxaban for 
stroke prevention. 
   
# Chronic Systolic Congestive Heart Failure Exacerbation: Has 
dilated cardiomyopathy. Appears euvolemic on exam with flat JVP. 
She has crackles but no dyspnea or other signs of volume 
overload on exam. She was discharged on low dose of lasix to 
take outpatient to prevent volume overload as her JVP had 
increased slightly over the course of the hospitalization 
(although remains <10) and her weight was increased from her 
prior discharge weight. She is now lacking her atrial kick to 
aid with forward flow. She was instructed to monitor her weights 
outpatient. 

# Leg Pain: Felt to be from trochanteric bursitis outpatient. No 
acute fracture was seen on imaging. DVT was ruled out with 
ultrasound last admission. Continued Tylenol for pain control 
and physical therapy was consulted.

# Hypertension: Her home olmesartan and Felodipine continued to 
be held from last admission. Metoprolol was given per above. She 
should restart her ___ outpatient as she has systolic heart 
failure if her blood pressure permits. 
  

HOSPITAL ISSUES:   
- Code: Full Code  
- should have BP check at follow up outpatient visit and restart 
___ if BP allows
- CTA last hospitalization showed incidental finding of 
narrowing of the left 
mainstem bronchus with soft tissue fullness posteriorly and 
distal esophageal thickening. This can be further worked up if 
clinically indicated.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 1250 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Rivaroxaban 15 mg PO DAILY 
4. alendronate 70 mg oral weekly 
5. Estrogens Conjugated 1 gm VG PRN daily 

 
Discharge Medications:
1. Calcium Carbonate 1250 mg PO DAILY 
2. Metoprolol Succinate XL 75 mg PO BID 
RX *metoprolol succinate 25 mg 3 tablet extended release 24 
hr(s) by mouth twice a day Disp #*180 Tablet Refills:*0
3. Rivaroxaban 15 mg PO DAILY 
4. alendronate 70 mg oral weekly 
5. Estrogens Conjugated 1 gm VG PRN daily 
6. Furosemide 10 mg PO DAILY 
RX *furosemide 20 mg 0.5 (One half) tablet(s) by mouth once a 
day Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
atrial fibrillation with rapid ventricular response
chronic systolic heart failure
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure seeing you again during your recent 
hospitalization at ___. You were admitted to the hospital 
again because your heart rhythm returned into atrial 
fibrillation and was beating very fast. We increased your dose 
of metoprolol and now your heart rate is better controlled. 

Please take your medications as prescribed and go to your clinic 
appointments shown below. Remember to weigh yourself every 
morning and call your doctor if your weight goes up more than 3 
lbs.
 
Followup Instructions:
___